US04237311
A solution of 3,4-dichlorobenzylchloride (49.2 g, 0.254 mole) in dry ether (125 ml) was added dropwise during one hour to magnesium (6.08 g, 0.250 mole) in a three-necked flask equipped with stirrer and reflux condenser. Refluxing was continued until all the magnesium was dissolved and the solution was then cooled. Acetone (15.0 g, 0.258 mole) was added dropwise and the solution heated to reflux for three hours. After cooling the reaction mixture was poured out on ice (125 ml) and concentrated hydrochloric acid (23 ml). The phases were separated and the organic layer was washed with water, dried (Na2SO4) and evaporated in vacuum. The residual oil was distilled affording 1-(3,4-dichlorophenyl)-2-methyl-2-propanol (bp. 81°-83° C./0.2 mm Hg; 31.3 g, 57% yield). After several recrystallizations from petroleum ether the compound melted at 40°-41° C. The substituted propanol above (21.9 g, 0.100 mole) was mixed with dimethylaniline (12.4 g, 0.102 mole) and ether (50 ml). The solution was cooled and α-bromopropionyl bromide (21.4 g, 0.099 mole) was added dropwise during 40 minutes. Stirring at room temperature for 48 hours gave a crystalline precipitate of dimethylaniline hydrobromide, which was filtered off and washed with ether. The etheral solutions were combined and evaporated in vacuo. The residual oil was distilled affording 2-bromopropanoic acid 1-(3,4-dichlorophenyl)-2-methyl-2-propylester (bp. 135°-143° C./0.2 mm Hg; 19.2 g, 55% yield).

reactant | 3,4-dichlorobenzylchloride | 0.254 mole, 49.2 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | magnesium | 0.250 mole, 6.08 g | [Mg] | Mg
reactant | Acetone | 0.258 mole, 15.0 g | CC(=O)C | C3H6O
reactant | hydrochloric acid | 23 ml | Cl | ClH
solvent | ether | 125 ml | CCOCC | C4H10O
product | 1-(3,4-dichlorophenyl)-2-methyl-2-propanol | 31.3 g, 57% yield | ClC=1C=C(C=CC1Cl)CC(C)(O)C | C10H12Cl2O
